US05637783
Hydrogenation of Isoprene-Butadiene-Isoprene Triblock Copolymer
A solution of 250 mL of cyclohexane and 23 g of a triblock polymer prepared in a manner similar to that described in Example I was purged of air by evacuation followed by introduction of dry nitrogen. This amount of polymer contained 0.403 moles of polybutadiene unsaturation. To the polymer solution was added 25 mL of a hydrogenation catalyst solution comprised of triethylaluminum and nickel octoate in a 3.6:1 ratio, with a nickel concentration of 0.1M in cyclohexane. The resulting mixture was placed in a Parr hydrogenation apparatus and pressured to 50 psig hydrogen. The apparatus was vented and the process repeated twice more, after which time the pressure was maintained at 50 psig of hydrogen. The temperature was raised to 50° C. and the mixture was agitated vigorously. Hydrogen was fed on demand in order to maintain 50 psig in the vessel, and the flow rate was monitored by means of a flow meter. The progress of the hydrogenation process was monitored both by infrared spectroscopy (FTIR) and hydrogen flow rate. An IR spectrum obtained at the start of the process displayed the presence of primarily the butadiene unsaturation (peaks at 995, 968, 910 cm-1). After 30 minutes, butadiene vinyl unsaturation (peaks at 995, 910 cm-1) was gone, the trans-1,4-butadiene was significantly reduced (968 cm-1) and the isoprene unsaturation remained. This final point corresponds to zero hydrogen flow. Upon completion of the selective hydrogenation process, the vessel was vented and the black reaction mixture was stirred in air with ammonium hydroxide and methanol stoichiometrically equivalent to the total catalyst metal content (11.5 mmol, 0.7 mL concentrated ammonia and 0.5 mL methanol). Within several hours, the mixture had changed to a dark green color indicative of oxidized nickel. The mixture was filtered through alumina/Celite, and an anti-oxidant was added in the amount equivalent to 100 ppm based on the dry polymer weight. Solvent was then removed under reduced pressure to yield the product as a clear, colorless, viscous fluid.

reactant | triethylaluminum | C(C)[Al](CC)CC
reactant | hydrogen | [H][H] | H2
reactant | butadiene | C=CC=C | C4H6
reactant | isoprene | C=CC(C)=C | C5H8
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonia | 11.5 mmol, 0.7 mL | N | H3N
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | nickel octoate | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Ni+2]
catalyst | nickel | [Ni] | Ni
solvent | cyclohexane | 250 mL | C1CCCCC1 | C6H12
solvent | methanol | 0.5 mL | CO | CH4O
product | Isoprene Butadiene Isoprene | C=CC(C)=C.C=CC=C.C=CC(C)=C | InChI=1S/2C5H8.C4H6/c2*1-4-5(2)3;1-3-4-2/h2*4H,1-2H2,3H3;3-4H,1-2H2
